Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old male with history of bipolar disease on
81 mg Aspirin who fell backwards down 3 steps. This fall was 
unwitnessed.  The patient presented with headcahe level 5 on a 
___ pain scale, dizziness,difficulty standing and walking.  The 
patient's wife has noticed slight confusion. The patient has 
been experiencing  difficulty sorting
his medications.  The patient denies numbness, tingling, nausea, 
vomiting, bowel or bladder dysfunction, vision or hearing issues
 
Past Medical History:
PSYCHIATRIC HISTORY:
--previous mood/anxiety/psychotic diagnoses: ___ and GAD 
--past psychiatric hospitalizations: patient denies 
--past medication trials, response, compliance, recent changes:
trials of Pamelor, Prozac, Xanax, and recent d/c of Celexa per 
MD
recs; previously good response to SSRI’s at lower dosing
according to family; pt and family report, “religious” 
medication
compliance, including with the recent addition of Zyprexa 
--history of suicide attempts, self-injurious behavior, or
assaultive behavior: patient denies 
--current outpatient therapist: none  
--current outpatient prescriber: Dr. ___ at ___  
 
PAST MEDICAL HISTORY: 
--___ medical diagnoses: DMT2, HTN  
--primary care provider: Dr. ___ at ___ at ___ 
(___)
--history of head trauma, seizures: patient denies 

 
Social History:
--city/state/country of birth/childhood: born in ___,
moved to ___ in ___
--current city/state of residence: lives in a house in ___
with his wife and son ___
--parents/siblings/children: 2 brothers, 2 sisters, 2
children
--highest level of education completed: college and 2 advanced
degrees, including law
--employment status: ___
--outstanding legal concerns: patient denies 
--religious affiliation: not known  
--history of emotional/physical/sexual abuse: patient denies;
safety plan not indicated   

SUBSTANCE USE HISTORY:
--alcohol use history: patient drinks “1 glass whiskey every
night before bed, that’s it”, with last alcoholic beverage
consumed last evening; patient denies any history of withdrawal
seizures, DT’s, blackouts, and denies prior history of
detoxifications; presently CAGE negative on interview
--IVDU (denies), tobacco (denies), THC (denies), cocaine
(denies), BZD (denies), Vicodin/Percocet (denies)

 
Family History:
--history of suicidality or suicide attempts: patient denies 
--history of diagnosed psychiatric/substance abuse disorders:
father with ___ with situational anxiety 
--history of inpatient psychiatric hospitalizations: patient
denies 

 
Physical Exam:
At admission:
Gen: WD/WN, comfortable, NAD.
HEENT: Eyes cloudy at baseline Pupils:  4-3mm bilaterally      
EOMs: intact
Neck: hard cervicle collar
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person/place NOT date
Recall: not able to recall ___ objects
Language: Speech fluent with good comprehension and repetition.
Naming intact.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light,4  to 3
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception, bilaterally.

Toes downgoing bilaterally

At discharge: He is alert orient to name, hospital only.  
Agraphia, moves all extremities and follows simple commands.  
Pupils are equal round and reactive to light.  Face symmetric, 
no Drift, speech good.
 
Pertinent Results:
___ 03:40PM   ___ PTT-24.1 ___
___ 03:40PM   PLT COUNT-273
___ 03:40PM   NEUTS-77.1* LYMPHS-14.9* MONOS-5.4 EOS-2.3 
BASOS-0.4
___ 03:40PM   WBC-6.9 RBC-3.71* HGB-10.5* HCT-30.7* MCV-83 
MCH-28.4 MCHC-34.3 RDW-14.4
___ 03:40PM   CALCIUM-9.3 PHOSPHATE-3.3 MAGNESIUM-1.9
___ 03:40PM   estGFR-Using this
___ 03:40PM   GLUCOSE-135* UREA N-22* CREAT-1.2 SODIUM-139 
POTASSIUM-3.4 CHLORIDE-98 TOTAL CO2-27 ANION GAP-17
___ 06:00PM URINE  RBC-1 WBC-<1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 06:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___

CT head ___
1) 8-mm left cerebral subdural hematoma.  
2) Two foci of the left temporal lobe parenchymal hemorrhage 
with surrounding 
vasogenic edema.  
3) Tiny subarachnoid hemorrhage along the midline falx.  
4) No fractures 

CT C-spine ___
No acute fracture or subluxation. Large anterior osteophytes 
between C4 and C7 

CXR ___
1. Minimal atelectasis at the left lung base. 
2. Thoracic aorta calcification. 
3. No pneumothorax. 

AP Pelvis ___
1. No acute fracture. 
2. Status post remote right hip ORIF with tip of the femoral rod 
projecting at the medial margin of the right femoral head. 
Correlate with priors to assess positional stability/adequacy.

MRI brain ___
Markedly limited by motion. Known area of left temporal 
hemorrhage and left subdural hemorrhage. Associated vasogenic 
edema in this region. No definite enhancement though limited by 
motion with repeat recommended when more clinically feasible.  

 
Brief Hospital Course:
Mr. ___ was admitted to the ___ neurosurgery team on 
the ___ 11 floor. He had a cT head shoing a left tmeporal 
hemorrhage. MRI was unable to rule out an underlyng mass. CXR 
shoed atelectasis. CT neck was without fracture but the patient 
had neck pain and his collar was left in place. He complained of 
dizziness with ambulation and ___ was ordered. He was on Dilantin 
for seizure prophylaxis. Psychiatry and Neurology was called for 
a consult. They recommended follow-up in 1 month with a repeat 
MRI.  PSychiatry scheduled patient for follow-up in on ___. 
Also, they recommended NO ECT until outpatient follow up in one 
month. ___ was consulted and they recommended acute rehab.  

Now DOD, he is afebrile, VSS and neurologically stable.  He is 
set for d/c to rehab in stable condition and will follow-up 
accordingly.  
 
Medications on Admission:
AMLODIPINE - 10 mg Tablet - 1 Tablet(s) by mouth at bedtime
ATENOLOL - 50 mg Tablet - 1.5 Tablet(s) by mouth DAILY (Daily)
GLYBURIDE - 5 mg Tablet - 1 Tablet(s) by mouth once a day in the
morning
HYDROCHLOROTHIAZIDE - 12.5 mg Tablet - 1 Tablet(s) by mouth 
daily
LAMOTRIGINE - 25 mg Tablet - take 1 Tablet(s) by mouth at night
LAMOTRIGINE [LAMICTAL] - 200 mg Tablet - take 1 Tablet(s) by
mouth twice a day
LISINOPRIL - 20 mg Tablet - 1 Tablet(s) by mouth twice a day
LOTEPREDNOL ETABONATE [LOTEMAX] -  (Prescribed by Other 
Provider)
- 0.5 % Drops, Suspension - 1 (One) Drops(s) in both eyes once a
day
METFORMIN - 500 mg Tablet - 1 Tablet(s) by mouth in AM and 
2(two)
tabs in ___
OMEPRAZOLE -  (Prescribed by Other Provider) - 20 mg Capsule,
Delayed Release(E.C.) - 2 Capsule(s) by mouth DAILY (Daily)
QUETIAPINE [SEROQUEL XR] - 300 mg Tablet Extended Release 24 hr 
-
1 (One) Tablet(s) by mouth at bedtime
SIMVASTATIN - 20 mg Tablet - 1 Tablet(s) by mouth daily
 
Medications - OTC
ASCORBIC ACID -  (OTC) - 500 mg Tablet - 1 (One) Tablet(s) by
mouth once a day
ASPIRIN -  (Prescribed by Other Provider) - 81 mg Tablet,
Chewable - 1 Tablet(s) by mouth DAILY (Daily)
BLOOD SUGAR DIAGNOSTIC ___ AVIVA] -   Strip - Check blood
sugar 3 times daily. Give enough strips for 3 months.
CHOLECALCIFEROL (VITAMIN D3) [DELTA D3] - 400 unit Tablet - 1
(One) Tablet(s) by mouth once a day
MULTIVIT-IRON-MIN-FOLIC ACID [CENTRUM] -  (OTC) - 0.4 mg-18
mg-3,500 unit Tablet, Chewable - 1 (One) Tablet(s) by mouth once
a day
OMEGA-3 FATTY ACIDS-VITAMIN E [FISH OIL] -  (OTC) - 1,000 mg
Capsule - 1 (One) Capsule(s) by mouth once a day

 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. quetiapine 300 mg Tablet Extended Release 24 hr Sig: One (1) 
Tablet Extended Release 24 hr PO HS (at bedtime).  
5. metformin 500 mg Tablet Sig: Two (2) Tablet PO QPM (once a 
day (in the evening)).  
6. metformin 500 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).  
7. Lotemax 0.5 % Drops, Suspension Sig: One (1) drops ___ 
Ophthalmic qd ().  
8. lisinopril 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. lamotrigine 100 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
10. phenytoin sodium extended 100 mg Capsule Sig: One (1) 
Capsule PO TID (3 times a day).
Disp:*0 Capsule(s)* Refills:*0*
11. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
13. atenolol 25 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
14. glyburide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

15. lamotrigine 25 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
16. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
17. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain fever.  
18. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
19. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
20. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for headache.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left Temporal Hemorrhage
Atelectasis
Cervical DJD
Bipolar Disorder
Confusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
General Instructions
You need to keep your collar on for 2 weeks until your follow up 
appointment. You may take it off to shower only.

•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Hold your ASA x 2 weeks and until follow-up
•You have been prescribed Dilantin (Phenytoin) for anti-seizure 
medicine, take it as prescribed and follow up with laboratory 
blood drawing in one week.  This can be drawn at your PCP’s 
office, but please have the results faxed to ___. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___